US08623889B2
Step 1: (1S,2S)—N-(7-bromoisoquinolin-3-yl)-2-fluorocyclopropanecarboxamide
A mixture of 7-bromoisoquinolin-3-amine (4.531 g, 20.31 mmol), (1S,2S)-2-fluorocyclopropanecarboxylic acid (2.002 g, 19.24 mmol), (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (12.148 g, 23.433 mmol), N,N-diisopropylethylamine (8.50 mL, 48.8 mmol), 4-dimethylaminopyridine (0.245 g, 2.00 mmol), and N,N-dimethylformamide (100 mL, 1000 mmol) was stirred at 50° C. for 18 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate, washed with water and brine, dried over MgSO4, filtered, and concentrated. The crude residue was purified via flash chromatography on silica gel (120 g silica, solvent gradient: 0-30% ethyl acetate in dichloromethane) to yield 6.5208 g of the title compound. LCMS (ESI): M+H=309.2.

reactant | 7-bromoisoquinolin-3-amine | 20.31 mmol, 4.531 g | BrC1=CC=C2C=C(N=CC2=C1)N | C9H7BrN2
reactant | (1S,2S)-2-fluorocyclopropanecarboxylic acid | 19.24 mmol, 2.002 g | F[C@@H]1[C@@H](C1)C(=O)O | C4H5FO2
reactant | (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 23.433 mmol, 12.148 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N,N-diisopropylethylamine | 48.8 mmol, 8.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 1000 mmol, 100 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 2.00 mmol, 0.245 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S,2S)—N-(7-bromoisoquinolin-3-yl)-2-fluorocyclopropanecarboxamide | 6.5208 g | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)[C@H]1[C@H](C1)F | C13H10BrFN2O
